US08445538B2
Step C. Ethyl N-(4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoyl)-β-alaninate
To a solution of 4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoic acid in THF (5 mL) was added CDI (150 mg, 0.925 mmol) After stirring at room temperature for 30 minutes, β-alanine ethyl ester hydrochloride (150 mg, 0.977 mmol) was added, then the mixture was stirred at room temperature overnight. The mixture was diluted with EtOAc then washed with water, then brine. The organic layer was dried over MgSO4, filtered, then concentrated. The residue was purified by preparative reverse phase HPLC eluting with acetonitrile/water+0.1% TFA to afford the two diastereomers of the title compound.

reactant | 4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoic acid | FC1=CC=C(C2=CC=CC=C12)C([C@H](CCC)C1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)OC | C29H27FO3
reactant | CDI | 0.925 mmol, 150 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | β-alanine ethyl ester hydrochloride | 0.977 mmol, 150 mg | Cl.C(C)OC(CCN)=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl N-(4-{(1S)-1-[(4-fluoro-1-naphthyl)(4-methoxyphenyl)methyl]butyl}benzoyl)-β-alaninate | FC1=CC=C(C2=CC=CC=C12)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC=C(C=C1)OC | C34H36FNO4
